US08865726B2
To a round bottom flask containing (4-methyl-2-oxooxazolidin-4-yl)methyl 4-methylbenzenesulfonate (300 mg, 1.05 mmol) was added under a nitrogen atmosphere 3 ml of sodium methoxide in methanol solution (25% wt). The resulting thick suspension was stirred at ambient temperature for 24 hours, and then heated at 80° C. for 18 hours. The reaction was cooled to ambient temperature, diluted with water, and the pH was adjusted to neutral. The mixture was concentrated, and the resulting solids were extracted with DCM and EtOAc. The combined organic layer was concentrated to afford 4-(methoxymethyl)-4-methyloxazolidin-2-one (129 mg, 85%) as an oil.

reactant | (4-methyl-2-oxooxazolidin-4-yl)methyl 4-methylbenzenesulfonate | 1.05 mmol, 300 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1(NC(OC1)=O)C | C12H15NO5S
reactant | sodium methoxide | 3 ml | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-(methoxymethyl)-4-methyloxazolidin-2-one | 129 mg, 85% | COCC1(NC(OC1)=O)C | C6H11NO3
